US06197798B1
To a solution of the title C compound ((5-amino-indan-2-yl)-carbamic acid tert-butyl ester; 12.5 mmol) in methylene chloride (75 mL) is added diisopropylethyl amine (3.3 g, 25 mmol) followed by a 0.5 M solution of the title D compound (4′-trifluoromethyl-2-biphenyl carboxylic acid chloride, 12.6 mmol) in methylene chloride (25.3 mL). After stirring 16 h, the reaction mixture is poured into ethyl acetate and washed with 1N HCl, 8% NaHCO3 solution, and brine. The organic layer is dried (MgSO4) and concentrated under reduced pressure to give a solid. Recrystallization from toluene gives {5-[(4′-trifluoromethylbiphenyl-2-carbonyl)amino]-indan-2-yl}-carbamic acid tert-butyl ester in two crops; mp 198-201° C. MS (ES+), m/z 514 (M+NH+4).

reactant | (5-amino-indan-2-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CC2=CC=C(C=C2C1)N)=O | C14H20N2O2
reactant | diisopropylethyl amine | 25 mmol, 3.3 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4′-trifluoromethyl-2-biphenyl carboxylic acid chloride | FC(C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)Cl)(F)F | C14H8ClF3O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25.3 mL | C(Cl)Cl | CH2Cl2
product | {5-[(4′-trifluoromethylbiphenyl-2-carbonyl)amino]-indan-2-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CC2=CC=C(C=C2C1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F)=O | C28H27F3N2O3
